data/oMe_Silver.jsonl
{"reaction_id": "NR-133_1-c1ccccc1_2-c1ccc(F)cc1","name": "Lobry-de Bruyn-van Ekenstein Rearrangement","level": "medium","reactants_smiles": ["C(O)(c1ccc(F)cc1)C(=O)(c1ccccc1)"],"products_smiles": ["C(=O)(c1ccc(F)cc1)C(O)(c1ccccc1)"],"conditions": "Base or Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(F)cc1)=C([O-])(c1ccccc1)","rationale": "Base abstracts the α-hydroxy proton, generating an enolate stabilized by resonance with the adjacent carbonyl, facilitating rearrangement."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(F)cc1)=C(O)(c1ccccc1)","rationale": "Protonation of the enolate oxygen yields the neutral enediol, stabilized by conjugation between hydroxyl and alkene."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([O-])(c1ccc(F)cc1)=C(O)(c1ccccc1)","rationale": "Deprotonation at the other hydroxyl group forms an enolate at the alternate carbon, enabling tautomerization toward the product carbonyl position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccc(F)cc1)C(O)(c1ccccc1)","rationale": "Protonation of the enolate oxygen regenerates the carbonyl, producing the thermodynamically favored α-hydroxy carbonyl product."}],"description": "Under basic or acidic conditions, the Lobry-de Bruyn-van Ekenstein rearrangement interconverts an α-hydroxy ketone and an α-hydroxy aldehyde via enediol intermediates. Sequential proton transfers enable tautomerization, driven by stabilization of the enolate/enediol forms and the thermodynamic preference for the carbonyl arrangement in the product."}
{"reaction_id": "NR-129_1-C1CCCCC1_2-c1ccccc1","name": "Kumada-Corriu Coupling","level": "medium","reactants_smiles": ["C1CCCCC1Br","c1ccccc1[Mg]Br"],"products_smiles": ["C1CCCCC1c1ccccc1"],"conditions": "[Pd]","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Pd](C1CCCCC1)Br","rationale": "Pd(0) undergoes oxidative addition into the C–Br bond due to the bond’s polarization and good leaving group ability of Br⁻, forming a Pd(II) complex stabilized by coordination to C1CCCCC1."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[Pd](C1CCCCC1)c1ccccc1","rationale": "The nucleophilic c1ccccc1–MgBr transfers c1ccccc1 to Pd via transmetalation, driven by the strong Mg–Br affinity and the increased electrophilicity of Pd(II) from electron-withdrawing Br."},{"step": 3,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "C1CCCCC1c1ccccc1","rationale": "Reductive elimination from Pd(II) is favored as it forms a stable C–C bond between C1CCCCC1 and c1ccccc1, regenerating Pd(0) and completing the catalytic cycle."}],"description": "In the Kumada-Corriu coupling, a Pd catalyst mediates the cross-coupling of an organohalide with a Grignard reagent. Oxidative addition activates the aryl halide, transmetalation introduces the nucleophilic partner, and reductive elimination forms the C–C bond, regenerating the catalyst."}
